US08685969B2
5. Benzyl 3-(1-carbamoyl-7-morpholino-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate
A homogeneous, burgundy solution of 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-morpholino-9H-pyrido[3,4-b] indole-1-carboxylic acid (0.2860 g, 0.533 mmol), ammonium chloride (0.114 g, 2.132 mmol), BOP (0.306 g, 0.693 mmol), DIPEA (0.447 ml, 2.56 mmol) and N-methylmorpholine (0.229 ml, 2.079 mmol) in DMF (Volume: 3.33 ml) was stirred. After 1 hr, water (35 mL) was added and the mixture was stirred at room temperature for 30 min. The precipitate was filtered, washed with water, dried over Drierite to give the desired product (0.274 g, 0.511 mmol, 96% yield) as a tan solid.

reactant | 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-morpholino-9H-pyrido[3,4-b] indole-1-carboxylic acid | 0.533 mmol, 0.2860 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)N2CCOCC2)C(=O)O)C | C31H28N4O5
reactant | ammonium chloride | 2.132 mmol, 0.114 g | [Cl-].[NH4+]
reactant | BOP | 0.693 mmol, 0.306 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIPEA | 2.56 mmol, 0.447 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | N-methylmorpholine | 2.079 mmol, 0.229 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 3.33 ml | CN(C)C=O | C3H7NO
solvent | water | 35 mL | O | H2O
product | Benzyl 3-(1-carbamoyl-7-morpholino-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate | 0.511 mmol, 0.274 g, 96% yield | C(N)(=O)C1=NC=C(C2=C1NC1=CC(=CC=C21)N2CCOCC2)C=2C(=C(C=CC2)NC(OCC2=CC=CC=C2)=O)C | C31H29N5O4
